US06656965B2
Preparation of Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(N′α-phenylglycyl)-L-lysine
The title compound was prepared from Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-L-lysine potassium salt (2.0 g, 5.1 mmol) suspended in a mixture of THF (20 mL), DIEA (1.5 mL, 8.6 mmol) and chloroacetyl chloride (0.8 mL, 10.1 mmol). The reaction mixture was stirred for a period of 30 min. Them, a solution of 2N HCl (20 mL) was added and the solution extracted with EtOAc (25 mL, 3×). The organic phase was dried with MgSO4, filtered and evaporated to a brown oil. The crude material was purified by flash chromatography using a solvent gradient from 39:1 to 19:1 CH2Cl2/MeOH. The product was isolated as a yellowish oil (1.7 g, 78% yield).

reactant | Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-L-lysine potassium salt | 5.1 mmol, 2.0 g | [K+].C(C(C)C)N([C@@H](CCCCN)C(=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C
reactant | DIEA | 8.6 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 10.1 mmol, 0.8 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | 2N, 20 mL | Cl | ClH
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-(N′α-phenylglycyl)-L-lysine | CC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)[C@@H](CCCCNC(=O)CNC2=CC=CC=C2)C(=O)O | C25H35N3O5S
